US04182776
6-(2-Naphthyloxy)-1-hexanol O-methanesulfonate
To a mixture of 10.4 g. of 6-(2-naphthyloxy)-1-hexanol and 8.1 g. of triethylamine in 250 ml. of dichloromethane chilled to -8° C. under nitrogen is added dropwise 5.1 g of methanesulfonyl chloride. After one hour at 0° to -8° C., the mixture is washed with cold water, 10% hydrochloric acid solution, saturated sodium bicarbonate solution, saturated sodium chloride solution, and dried (magnesium sulfate). The solvent is removed under vacuum to give the product as a white solid.

reactant | 6-(2-naphthyloxy)-1-hexanol | C1=C(C=CC2=CC=CC=C12)OCCCCCCO | C16H20O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 5.1 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(2-Naphthyloxy)-1-hexanol O-methanesulfonate | CS(=O)(=O)OCCCCCCOC1=CC2=CC=CC=C2C=C1 | C17H22O4S
